// vco_dual.scs — reconfigurable dual-core VCO (paper Fig.12/13), generated
// EN2=0.8: dual-core; EN2=0: core B powered down, coupling off (single-core)
// VDD feeds both cores via MPWRB; COUTP/COUTN are the shorted tank outputs

subckt vco_x (VDD VSS VCTRL OUTP OUTN)

MN1 (OUTP OUTN VSS VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=16 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MN0 (OUTN OUTP VSS VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=16 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
L1 (VDD OUTN) inductor l=2.49n r=2
L0 (VDD OUTP) inductor l=2.49n r=2
CF11 (net08 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 \
        nr=160 n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF10 (net09 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 \
        nr=160 n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF9 (OUTN OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF8 (net15 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF7 (net16 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF6 (OUTP OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF5 (net8 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF4 (net9 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF3 (net10 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF2 (net11 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF1 (net12 OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CF0 (OUTP OUTN VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=160 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CV_OUTN_0 (OUTN VB_OUTN_0 VB_OUTN_0) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTN_0 (VB_OUTN_0 VOF_OUTN_0 VCTRL 0) vcvs gain=1.0
V_OUTN_0 (VOF_OUTN_0 0) vsource dc=-0.3
CV_OUTN_1 (OUTN VB_OUTN_1 VB_OUTN_1) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTN_1 (VB_OUTN_1 VOF_OUTN_1 VCTRL 0) vcvs gain=1.0
V_OUTN_1 (VOF_OUTN_1 0) vsource dc=-0.6
CV_OUTN_2 (OUTN VB_OUTN_2 VB_OUTN_2) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTN_2 (VB_OUTN_2 VOF_OUTN_2 VCTRL 0) vcvs gain=1.0
V_OUTN_2 (VOF_OUTN_2 0) vsource dc=-0.9
CV_OUTN_3 (OUTN VB_OUTN_3 VB_OUTN_3) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTN_3 (VB_OUTN_3 VOF_OUTN_3 VCTRL 0) vcvs gain=1.0
V_OUTN_3 (VOF_OUTN_3 0) vsource dc=-1.2
CV_OUTP_0 (OUTP VB_OUTP_0 VB_OUTP_0) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTP_0 (VB_OUTP_0 VOF_OUTP_0 VCTRL 0) vcvs gain=1.0
V_OUTP_0 (VOF_OUTP_0 0) vsource dc=-0.3
CV_OUTP_1 (OUTP VB_OUTP_1 VB_OUTP_1) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTP_1 (VB_OUTP_1 VOF_OUTP_1 VCTRL 0) vcvs gain=1.0
V_OUTP_1 (VOF_OUTP_1 0) vsource dc=-0.6
CV_OUTP_2 (OUTP VB_OUTP_2 VB_OUTP_2) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTP_2 (VB_OUTP_2 VOF_OUTP_2 VCTRL 0) vcvs gain=1.0
V_OUTP_2 (VOF_OUTP_2 0) vsource dc=-0.9
CV_OUTP_3 (OUTP VB_OUTP_3 VB_OUTP_3) moscap_rf wr=110n nfin=12 lr=200n gr=2 br=2 multi=1
E_OUTP_3 (VB_OUTP_3 VOF_OUTP_3 VCTRL 0) vcvs gain=1.0
V_OUTP_3 (VOF_OUTP_3 0) vsource dc=-1.2
ends vco_x
subckt vco_dual (VDD VSS VCTRL OUTP OUTN EN2)
// internal inverter: EN2B = !EN2 (PMOS power switch needs inverted gate)
MNEN (EN2B EN2 VSS VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=2  sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MPEN (EN2B EN2 VDD VDD) pch_svt_mac l=16n nfin=2 w=58n multi=1 nf=2  sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
// core B supply power switch (on when EN2 high)
MPWRB (VDDB EN2B VDD VDD) pch_svt_mac l=16n nfin=2 w=58n multi=1 nf=64  sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
// coupling switches A<->B (on in dual-core mode)
MSWP (OUTP EN2 OUTPB VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=64  sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MSWN (OUTN EN2 OUTNB VSS) nch_svt_mac l=16n nfin=2 w=58n multi=1 nf=64  sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
Xa (VDD VSS VCTRL OUTP OUTN) vco_x
Xb (VDDB VSS VCTRL OUTPB OUTNB) vco_x
ends vco_dual
